US04806558
(E)-4-[(5,6,7,8-Tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-cinnamic acid
Using a procedure similar to that described in Example 6b, 16.5 g (44 millimoles) of diethyl 1-chloro-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-methylphosphonate (about 85% strength), 7.8 g (44 millimoles) of 4-formylcinnamic acid and 15.5 g (137 millimoles) of potassium tert.-butylate were converted to 6.2 g (39%) of the title compound of melting point 256°-258° C. (from ethanol).

reactant | diethyl 1-chloro-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-methylphosphonate | 44 millimoles, 16.5 g | ClC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)P(OCC)(OCC)=O | C19H30ClO3P
reactant | 4-formylcinnamic acid | 44 millimoles, 7.8 g | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
solvent | ethanol | C(C)O | C2H6O
product | (E)-4-[(5,6,7,8-Tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-cinnamic acid | 6.2 g, 39% | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC1=CC=C(/C=C/C(=O)O)C=C1)C | C25H26O2
